US09351974B2
Step c: 2-Chloro-7,7-dimethyl-8-(3-methylbutyl)-7,8-dihydropteridin-6(5H)-one
To a stirred solution of methyl N-(2-chloro-5-nitropyrimidin-4-yl)-2-methyl-N-(3-methylbutyl)alaninate (2.0 g, 5.8 mmol) in ethanol (125 mL) was added iron powder (3.2 g, 58 mmol), the resulting mixture was heated to reflux. 1N aqueous hydrochloric acid was added to the reaction mixture (added in small portions, 5.0 ml total), The reaction mixture was heated at reflux until the completion of the reaction as monitored by TLC. The reaction was cooled to room temperature and filtered. The filtrate was evaporated to give a residue which was triturated using isopropyl ether to give titled compound (yield: 65%). 1HNMR (300 MHz, CDCl3): δ 0.97 (s, 3H), 1.0 (s, 3H), 1.37-1.56 (m, 7H), 1.65-1.80 (m, 2H), 3.52-3.58 (m, 2H), 7.62 (s, 1H), 9.13 (br s, 1H).

reactant | methyl N-(2-chloro-5-nitropyrimidin-4-yl)-2-methyl-N-(3-methylbutyl)alaninate | 5.8 mmol, 2.0 g | ClC1=NC=C(C(=N1)N(C(C)(C(=O)OC)C)CCC(C)C)[N+](=O)[O-] | C14H21ClN4O4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 125 mL | C(C)O | C2H6O
catalyst | iron | 58 mmol, 3.2 g | [Fe] | Fe
product | 2-Chloro-7,7-dimethyl-8-(3-methylbutyl)-7,8-dihydropteridin-6(5H)-one | yield: 65% | ClC1=NC=2N(C(C(NC2C=N1)=O)(C)C)CCC(C)C | C13H19ClN4O
